US07749992B2
Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-methyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Purge with nitrogen, a suspension of isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (0.153 g, 0.257 mmol), trimethylboroxine (36 μl, 0.257 mmol), and potassium carbonate (0.106 g, 0.771 mmol) in N,N-dimethylformamide (2 mL) in a 10 mL microwave vessel. Add tetrakis(triphenylphosphine)palladium (0) (0.030 g, 0.026 mmol) and irradiate the mixture at 150° C. for 20 min (50 W). Dilute the mixture with ethyl acetate (20 mL), wash with water and brine (10 mL each), then dry the organic layer over sodium sulfate, filter and remove the solvent under reduced pressure. Purify the residue first using chromatography on silica gel, eluting with hexanes/ethyl acetate (60:40), to provide the title compound as a white solid (0.056 g, 41%): 531 (M+H).

reactant | isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.257 mmol, 0.153 g | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=CC(=C2)Br | C25H25BrF6N2O3
reactant | trimethylboroxine | 0.257 mmol, 36 μl | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 0.771 mmol, 0.106 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.026 mmol, 0.030 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-methyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.056 g, 41% | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C=C(C=C2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C26H28F6N2O3
